US06498196B1
Step 3: 7-Methoxy-1,1-dimethyl-3-methylsulfanyl-3,4-dihydro-1H-naphthalen-2-one oxime (C)
To a solution of 7-methoxy-1,1-dimethyl-3-methylsulfanyl-3,4-dihydro-1H-naphthalen-2-one (0.265 g, 1.05 mmol) in pyridine (5 ml) was added hydroxyamine hydrochloride (1.09 g, 15.7 mmol). The mixture was stirred under nitrogen at 85° C. overnight. The solution was cooled to room temperature, poured into water, extracted with ethylacetate, washed with 10% KHSO4 aqueous solution, brine, dried over MgSO4, filtered. The filtrate was evaporated under vacuo. The crude product was purified by flash column chromatography using ethylacetate:Hexane (1:9) as eluant to give the desired product as white solid (0.177 g, 63%). 1H NMR (CDCl3) δ: 8.80(br, 1H), 7.05(d, 1H, J=8.2 Hz), 6.93(d, 1H, J=2.5 Hz), 6.73(dd, 1H, J=8.2 and 2.5 Hz), 4.91(t, 1H, J=3.0 Hz), 3.81(s, 3H), 3.26(dd, 1H, J=15.6 and 5.0 Hz), 2.96(dd, 1H, J=15.6and 3.0 Hz), 2.15(s, 3H), 176(s, 3H), 1.48(s, 3H). 13C NMR (CDCl3) δ: 164.5, 159.1, 145.0, 129.6, 129.4, 111.8, 111.0, 55.3, 39.8, 35.9, 32.9, 32.4, 30.8, 15.1.

reactant | 7-methoxy-1,1-dimethyl-3-methylsulfanyl-3,4-dihydro-1H-naphthalen-2-one | 1.05 mmol, 0.265 g | COC1=CC=C2CC(C(C(C2=C1)(C)C)=O)SC | C14H18O2S
reactant | hydroxyamine hydrochloride | 15.7 mmol, 1.09 g | Cl.ON
reactant | water | O | H2O
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 7-Methoxy-1,1-dimethyl-3-methylsulfanyl-3,4-dihydro-1H-naphthalen-2-one oxime | 0.177 g, 63% | COC1=CC=C2CC(C(C(C2=C1)(C)C)=NO)SC | C14H19NO2S
